US08609731B2
3-Fluoro-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzoic acid
According to method F, 3-fluoro-4-hydroxybenzoic acid ethyl ester was alkylated with methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester, and the reaction product was hydrolyzed by method E. The product was thus obtained with the molecular weight of 240.23 (C12H13FO4); MS (ESI): 241 (M+H+).

reactant | 3-fluoro-4-hydroxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)O)F)=O | C9H9FO3
reactant | methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester | O1[C@@H](CCC1)COS(=O)(=O)C | C6H12O4S
product | 3-Fluoro-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzoic acid | FC=1C=C(C(=O)O)C=CC1OC[C@H]1OCCC1 | C12H13FO4
